US05773428
To a solution of the less polar stereoisomer of (10S)-2-acetylthiomethyl-4-methyl-N-(9-oxo-1,8-diazatricyclo[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraen-10-yl)pentanamide (50 mg, 0.106 mmol) in 10 mL of methanol at 0° C. under argon was added 0.5 mL concentrated NH4OH. The reaction mixture was stirred from 0° C. (ice-bath was removed after addition of NH4OH) to room temperature and further stored at room temperature for 1 hour. Excess methanol was removed under reduced pressure to give a white solid residue. The residue was partitioned between ethyl acetate (30 mL) and 0.1 NHCl (15 mL). The organic layer was washed with brine (15 mL), dried (MgSO4), and evaporated to dryness. The solid residue was stirred in 50% ether/pet. ether and filtered to yield the more polar stereoisomer of (10S)-2-mercaptomethyl-4-methyl-N-(9-oxo-1,8-diazatricyclo[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraen-10-yl)pentanamide as a white powder, 41 mg (90%) m.p. 224° C.

reactant | (10S)-2-acetylthiomethyl-4-methyl-N-(9-oxo-1,8-diazatricyclo[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraen-10-yl)pentanamide | 0.106 mmol, 50 mg | C(C)(=O)SCC(C(=O)N[C@@H]1C(NCCCCCCN2C=3C=CC=CC3C(C1)=C2)=O)CC(C)C | C26H37N3O3S
reactant | NH4OH | 0.5 mL | [NH4+].[OH-]
solvent | methanol | 10 mL | CO | CH4O
product | (10S)-2-mercaptomethyl-4-methyl-N-(9-oxo-1,8-diazatricyclo[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraen-10-yl)pentanamide | SCC(C(=O)N[C@@H]1C(NCCCCCCN2C=3C=CC=CC3C(C1)=C2)=O)CC(C)C | C24H35N3O2S
